Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMH of ___ syndrome, asthma, HTN presents
to ___ ED for lower back pain and inability to ambulatex 2 
weeks
after she fell down and escalator while in ___ for a wedding. She
reports ongoing lower back pain since that time without
urinary/fecal incontinence, no saddle anesthesia, no lower
extremity paresthesia/numbness/tingling. She was seen at an OSH
in ___ where she was given oxycodone and discharged with
reportedly no fracture on imaging. She had an acute worsening of
her pain 3 days ago after she bent to the side. The patient
continues to have low back pain and difficulty ambulating since
then. She normally ambulates with a walker, but has been unable
to do so for the last 2 days.  Her imaging was reviewed by her
PCP in ___. Called PCP who told to present at ___
ED for further eval. 

 
Past Medical History:
___ syndrome, asthma, HTN
 
Social History:
___
Family History:
___
 
Physical Exam:
UPON DISCHARGE:

AAO x 3.
Right hamstrings 4+/5, Right ___ 4, Left ___ 4+.  Sensation 
intact throughout.
Left hand swelling, but not painful.
 
Pertinent Results:
___: CT L-SPINE W/O CONTRAST:
Acute/subacute fractures involving T12 and S2 detailed above.
Given 2 column involvement, T12 fracture is on stable. Bony
retropulsion may impinge upon the spinal cord and if needed, MRI
may be performed to further assess.

___ CXR:  Pending at the time of this writing.  

___ 05:35AM BLOOD WBC-8.4 RBC-4.11 Hgb-13.0 Hct-38.5 MCV-94 
MCH-31.6 MCHC-33.8 RDW-12.5 RDWSD-42.9 Plt ___
___ 01:13PM BLOOD WBC-9.2 RBC-4.28 Hgb-13.8 Hct-39.9 MCV-93 
MCH-32.2* MCHC-34.6 RDW-12.6 RDWSD-42.6 Plt ___
___ 01:13PM BLOOD Neuts-53.8 Lymphs-13.3* Monos-2.3* 
Eos-30.0* Baso-0.3 Im ___ AbsNeut-4.97 AbsLymp-1.23 
AbsMono-0.21 AbsEos-2.77* AbsBaso-0.03
___ 01:13PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 05:35AM BLOOD ___ PTT-31.9 ___
___ 05:35AM BLOOD Glucose-82 UreaN-12 Creat-0.7 Na-140 
K-3.8 Cl-103 HCO3-28 AnGap-13
___ 01:13PM BLOOD Glucose-97 UreaN-13 Creat-0.8 Na-140 
K-3.8 Cl-104 HCO3-28 AnGap-12
___ 05:35AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.8
___ 01:13PM BLOOD Calcium-9.7 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
On ___, Mrs. ___ was admitted to ___ from ED for T12 fx, 
TLSO brace, and possible further imaging. 

On ___, the patient's TLSO brace was fitted to patient and 
donned. The patient is working with Physcial therapy to learn 
usage of and acclimation to her brace. 

Mrs. ___ was seen by Physical Therapy on ___.  Based on 
their evaluation, the patient was screen for an ___ 
rehab in preparation for discharge.  

Prior to discharge, the patient was complaining of right 
chest/rib pain.  A 
CXR was ordered to rule out an acute fracture.  In discussion 
with radiology, there was no apparent fracture.  If an occult 
fracture is present, there is nothing to do from a surgical 
perspective.  Instead, care should be focused on pain management 
and pulmonary toileting.

At the time of discharge, Mrs. ___ was afebrile, 
hemodynamically and neurologically stable.  She was ambulating 
with the brace well, but required light assistance due to 
balance issues.  

Per her discharge instructions, the patient should follow up 
with Dr. ___ in two weeks with an x-ray of the thoracic and 
lumbar spine (T12) to reassess the fracture.

 
Medications on Admission:
Kenalog injections, lisinopril, advair

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Docusate Sodium 100 mg PO BID 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID SOB 
4. Lisinopril 5 mg PO DAILY 
5. Senna 17.2 mg PO HS 
6. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
T12 compression fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
•Your spinal fracture is being managed conservatively

Activity
•You must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
• You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___